US07375113B2
To a solution of 4-[2-(4-{(E)-3-[l-{[4-(benzyloxy-carbonyl)piperazin-1-yl]carbonyl}-1-(methyl)ethyl-carbamoyl]prop-1-enyl}phenyl)ethynyl]-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indazole (34 mg) in methanol (3 mL) was added 10% palladium-carbon powder (10 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 2 hours. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give 4-{2-[4-(3-{1-[(piperazin-1-yl)-carbonyl]-1-(methyl)ethylcarbamoyl}propyl)phenyl]ethyl}-3-(2,3,4, 6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indazole (30 mg). This material was dissolved in methanol (3 mL). To the solution was added lithium hydroxide monohydrate (6 mg), and the mixture was stirred at room temperature overnight. To the reaction mixture was added acetic acid (0.1 mL), and the resulting mixture was concentrated under reduced pressure. The residue was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent:methanol) to give the title compound (17 mg).

reactant | 4-[2-(4-{(E)-3-[l-{[4-(benzyloxy-carbonyl)piperazin-1-yl]carbonyl}-1-(methyl)ethyl-carbamoyl]prop-1-enyl}phenyl)ethynyl]-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indazole | 34 mg | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C(=O)C(C)(C)NC(=O)C/C=C/C1=CC=C(C=C1)C#CC1=C2C(=NNC2=CC=C1)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C61H77N5O14
solvent | methanol | 3 mL | CO | CH4O
catalyst | palladium-carbon | 10 mg | [C].[Pd]
product | 4-{2-[4-(3-{1-[(piperazin-1-yl)-carbonyl]-1-(methyl)ethylcarbamoyl}propyl)phenyl]ethyl}-3-(2,3,4, 6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indazole | 30 mg | N1(CCNCC1)C(=O)C(C)(C)NC(=O)CCCC1=CC=C(C=C1)CCC1=C2C(=NNC2=CC=C1)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C53H77N5O12
